US08039635B2
3 g (6.614 mmol) of N-hydroxy-4-{5-[4-(5-isopropyl-2-methyl-1,3-thiazol-4-yl)phenoxy]pentoxy}benzamidine was dissolved in 30 ml of ethanol, and was mixed with 1.14 ml (2.2 equivalents) of ethanesulfonic acid with agitation at room temperature for 1 hr. The solution was then mixed with 30 ml of acetone and 60 ml of hexane with agitation for 1 hr. The produced solid was recovered by filtration, washed with acetone, and dried under vacuum. As a result, 4.17 g (yield: 86%) of N-Hydroxy-4-{5-[4-(5-isopropyl-2-methyl-1,3-thiazol-4-yl)phenoxy]pentoxy}benzamidine 2 ethansulfonic acid salt was obtained as a white solid.

reactant | N-hydroxy-4-{5-[4-(5-isopropyl-2-methyl-1,3-thiazol-4-yl)phenoxy]pentoxy}benzamidine | 6.614 mmol, 3 g | ONC(C1=CC=C(C=C1)OCCCCCOC1=CC=C(C=C1)C=1N=C(SC1C(C)C)C)=N | C25H31N3O3S
reactant | ethanesulfonic acid | 1.14 ml, 2.2 equivalents | C(C)S(=O)(=O)O | C2H6O3S
reactant | acetone | 30 ml | CC(=O)C | C3H6O
reactant | hexane | 60 ml | CCCCCC | C6H14
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | N-Hydroxy-4-{5-[4-(5-isopropyl-2-methyl-1,3-thiazol-4-yl)phenoxy]pentoxy}benzamidine 2 ethansulfonic acid salt | 4.17 g, yield: 86% | CCS(=O)(=O)O.ONC(C1=CC=C(C=C1)OCCCCCOC1=CC=C(C=C1)C=1N=C(SC1C(C)C)C)=N | InChI=1S/C25H31N3O3S.C2H6O3S/c1-17(2)24-23(27-18(3)32-24)19-7-11-21(12-8-19)30-15-5-4-6-16-31-22-13-9-20(10-14-22)25(26)28-29;1-2-6(3,4)5/h7-14,17,29H,4-6,15-16H2,1-3H3,(H2,26,28);2H2,1H3,(H,3,4,5)
